US08975256B2
7-Bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-1)
A mixture of 7-bromo-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 7, 801 mg, 2.52 mmol), 5-fluoro-2-methylphenol (330 μL, 3.02 mmol), and potassium carbonate (524 mg, 3.79 mmol) was suspended in anhydrous N,N-dimethylformamide (10 mL) and stirred at 80° C. overnight. After cooling down, ethyl acetate (80 mL) and water (50 mL) were added to the reaction mixture and partitioned. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (945 mg) as a colorless solid. (Yield 92%)

reactant | 7-bromo-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 2.52 mmol, 801 mg | BrC1=CC=C2NC(C(N(C2=C1CCl)C)=O)(C)C | C12H14BrClN2O
reactant | 5-fluoro-2-methylphenol | 3.02 mmol, 330 μL | FC=1C=CC(=C(C1)O)C | C7H7FO
reactant | potassium carbonate | 3.79 mmol, 524 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 7-Bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 945 mg, Yield 92% | BrC1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C | C19H20BrFN2O2
